US08735584B2
(5-Amino-3-bromo-pyridin-2-yl)-carbamic acid tert-butyl ester (50 mg, 0.17 mmol), 3-fluoro-benzoyl chloride (28 mg, 0.17 mmol), and N,N-diisopropylethylamine (0.03 mL, 0.19 mmol) were dissolved in CH2Cl2 (2 mL), and stirred or 1 h at 0° C. The reaction solution was diluted with 1 M HCl/CH2Cl2, and filtered through an Extrelut column. The column was washed with CH2Cl2, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 20 to 70% EtOAc/hexanes to provide of [3-bromo-5-(3-fluoro-benzoylamino)-pyridin-2-yl]-carbamic acid tert-butyl ester (47 mg, 66% yield) as a solid.

reactant | (5-Amino-3-bromo-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.17 mmol, 50 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1Br)N)=O | C10H14BrN3O2
reactant | 3-fluoro-benzoyl chloride | 0.17 mmol, 28 mg | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | N,N-diisopropylethylamine | 0.19 mmol, 0.03 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | HCl CH2Cl2 | 1 M | Cl.C(Cl)Cl
product | [3-bromo-5-(3-fluoro-benzoylamino)-pyridin-2-yl]-carbamic acid tert-butyl ester | 47 mg, 66% yield | C(C)(C)(C)OC(NC1=NC=C(C=C1Br)NC(C1=CC(=CC=C1)F)=O)=O | C17H17BrFN3O3
